US05032598
1-(Indole-5-carbonyl)-4-[2-(4-methanesulfonamidophenyl)ethyl]piperazine
In the manner described in Example 24, indole-5-carboxylic acid (100 mg, 0.62 mmol) and 1-[2-(4-methanesulfonamidophenyl)ethyl]piperazine (180 mg, 0.64 mmol) gave, after purification by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 ; 95:5:0.5 and trituration with hexane/EtOAc, the piperazine (68 mg, 26%), mp 94°-97° C. Elemental analysis for C22H26N4O3S.0.5H2O: Calculated: C, 60.66; H, 6.26; N, 12.86%. Found: C, 61.02; H, 6.19; N, 12.51%.

reactant | indole-5-carboxylic acid | 0.62 mmol, 100 mg | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | 1-[2-(4-methanesulfonamidophenyl)ethyl]piperazine | 0.64 mmol, 180 mg | CS(=O)(=O)NC1=CC=C(C=C1)CCN1CCNCC1 | C13H21N3O2S
product | 1-(Indole-5-carbonyl)-4-[2-(4-methanesulfonamidophenyl)ethyl]piperazine | N1C=CC2=CC(=CC=C12)C(=O)N1CCN(CC1)CCC1=CC=C(C=C1)NS(=O)(=O)C | C22H26N4O3S
